US04590273
3-(4-(4-Methoxybenzoyl)-piperazin-1-yl)-isoquinoline
9.38 g of 4-methoxybenzoyl chloride are added dropwise to 10 g of 3-(piperazin-1-yl)-isoquinoline, dissolved in 40 ml of pyridine. After stirring for 1 hour at room temperature, the mixture is diluted with water and extracted with ethyl acetate. The ethyl acetate phase is dried and the solvent is removed by evaporation. 5.8 g, melting point 156°-159° C., can be isolated.

reactant | 4-methoxybenzoyl chloride | 9.38 g | COC1=CC=C(C(=O)Cl)C=C1 | C8H7ClO2
reactant | 3-(piperazin-1-yl)-isoquinoline | 10 g | N1(CCNCC1)C=1N=CC2=CC=CC=C2C1 | C13H15N3
solvent | pyridine | 40 ml | N1=CC=CC=C1 | C5H5N
solvent | water | O | H2O
product | 3-(4-(4-Methoxybenzoyl)-piperazin-1-yl)-isoquinoline | COC1=CC=C(C(=O)N2CCN(CC2)C=2N=CC3=CC=CC=C3C2)C=C1 | C21H21N3O2
